US07105533B2
To toluene (1 mL) was added 3-methoxy-4-(pyridin-2-yl)-2′-nitrobenzanilide (97 mg, 0.28 mmol) and phosphorous pentachloride (56 mg, 0.27 mmol), and the mixture heated at reflux for 1 h. The resulting solution was cooled to rt and added to a solution of NaN3 (35 mg, 0.54 mmol) in DMF (2 mL). The mixture was heated at 90° C. for 1 h, cooled to rt, partitioned between EtOAc and water, and the organic layer concentrated. The crude product was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (0:1 to 1:1) to afford 2-{2-methoxy-4-[1-(2-nitrophenyl)-1H-tetraazol-5-yl]phenyl}pyridine as a yellow solid.

reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-methoxy-4-(pyridin-2-yl)-2′-nitrobenzanilide | 0.28 mmol, 97 mg | COC=1C=C(C(=O)NC2=C(C=CC=C2)[N+](=O)[O-])C=CC1C1=NC=CC=C1 | C19H15N3O4
reactant | phosphorous pentachloride | 0.27 mmol, 56 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | NaN3 | 0.54 mmol, 35 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-{2-methoxy-4-[1-(2-nitrophenyl)-1H-tetraazol-5-yl]phenyl}pyridine | COC1=C(C=CC(=C1)C1=NN=NN1C1=C(C=CC=C1)[N+](=O)[O-])C1=NC=CC=C1 | C19H14N6O3
